US04399140
5-Chloro-1-(3,5-dimethylisoxazol-4-ylmethyl)pyrimidin-2-one
A mixture of 5-chloropyrimidin-2-one hydrochloride (0.668 g), 4-chloromethyl-3,5-dimethylisoxazole (0.874 g), anhydrous sodium carbonate (1.272 g) and benzyltrimethylammonium chloride (15 mg) in dimethylformamide (20 ml) was stirred and heated at 90° C. After 2.25 h the reaction mixture was diluted with water (200 ml) and extracted with ethyl acetate (100 ml, 2×50 ml). The combined extracts were washed with water (50 ml) and brine (50 ml), dried (MgSO4) and evaporated to an orange crystalline solid (0.811 g). The solid was subjected to preparative layer chromatography (p.l.c.) on silica developing with chloroform-ethyl acetate (1:1) (two runs). The major band was eluted with chloroform-ethanol (1:1) (three times) to give a cream crystalline solid (0.313 g) which was recrystallised from ethanol to give the title pyrimidone (0.189 g) m.p. 218°-219° C. (Kofler), λmax (EtOH) 225 nm (ε 9,300), 310 nm (ε 2,200) inflection at 245 nm (ε 4,300) νmax (CHBr3) 1677 cm-1 (C=O), (Nujol) 1668 cm-1 (C=O).

reactant | 5-chloropyrimidin-2-one hydrochloride | 0.668 g | Cl.ClC=1C=NC(NC1)=O
reactant | 4-chloromethyl-3,5-dimethylisoxazole | 0.874 g | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | sodium carbonate | 1.272 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | benzyltrimethylammonium chloride | 15 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 5-Chloro-1-(3,5-dimethylisoxazol-4-ylmethyl)pyrimidin-2-one | 0.313 g | ClC=1C=NC(N(C1)CC=1C(=NOC1C)C)=O | C10H10ClN3O2
